US07335799B2
Under Ar atmosphere, to a solution of ethyl isobutyrate (18.2 g, 156.6 mmol) and DMPU (1 mL) in THF (30 mL) was added LDA (80 mL, 2 M in heptanes, 160 mmol) at −78° C. The mixture was stirred for 30 min. A solution of bis-(4-bromomethylphenyl)-methanone (21.1 g, 57.3 mmol) in THF (100 mL) was added dropwise. The reaction mixture was allowed to stir overnight, gradually warming to room temperature. Most of the THF (120 mL) was removed under reduced presure. The mixture was hydrolyzed with 6 N aqueous HCl (30 mL), water (170 g), and saturated NH4Cl solution (200 mL). The solution was extracted with ethyl acetate (200 mL, 2×100 mL). The organic layers were washed with half-saturated NaCl solution (100 mL), dried over MgSO4, and concentrated under vacuum to give a crude oil (35.8 g). Purification by column chromatography on silica (800 g) using hexanes/ethyl acetate (10:1) as eluent afforded 3-{4-[4-(2-ethoxycarbonyl-2-methylpropyl)-benzoyl]-phenyl}-2,2-dimethylpropionic acid ethyl ester (8.50 g, 34%) as a colorless oil. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 7.73 (d, 4H, J=8.1 Hz), 7.26 (d, 4H, J=8.1 Hz), 4.19-4.11 (m, 4H), 2.97 (s, 4H), 1.29-1.15 (m, 18H). 13C NMR (75 MHz, CDCl3=77.00 ppm): δ (ppm): 195.8, 176.8, 142.9, 135.8, 129.9, 129.7, 60.4, 46.0, 43.4, 24.8, 14.1. HRMS (LSIMS, nba): Calcd for C27H35O5 (M+H): 439.2484, found: 439.2487.

reactant | ethyl isobutyrate | 156.6 mmol, 18.2 g | C(C(C)C)(=O)OCC | C6H12O2
reactant | DMPU | 1 mL | CN1CCCN(C1=O)C | C6H12N2O
reactant | LDA | 160 mmol, 2 M, 80 mL | [Li+].CC(C)[N-]C(C)C
reactant | bis-(4-bromomethylphenyl)-methanone | 57.3 mmol, 21.1 g | BrCC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)CBr | C15H12Br2O
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-{4-[4-(2-ethoxycarbonyl-2-methylpropyl)-benzoyl]-phenyl}-2,2-dimethylpropionic acid ethyl ester | 8.50 g, 34% | C(C)OC(C(CC1=CC=C(C=C1)C(C1=CC=C(C=C1)CC(C)(C)C(=O)OCC)=O)(C)C)=O | C27H34O5
